US08420640B2
N-(2-bromo-5-nitrophenyl)benzamide (0.3 g, 0.9 mmol) and benzoylpiperazine (0.53 g, 3.00 mmol) were dissolved in 15 NMP and heated at 125° C. for 16 hours. The reaction was quenched with 100 ml water after cooling to room temperature. The mixture was extracted with 50 ml acetyl acetate and washed by water (3×20 ml). N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)benzamide (0.20 g, 50%) was obtained after flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 3.06 (s, br, 4H), 3.85 (d, br, 4H), 7.31 (d, J=8.8 Hz, 1H), 7.48 (m, 5H), 7.62 (m, 2H), 7.65 (m, 1H), 7.95 (d, J=7.1 Hz, 2H), 8.06 (dd, J=2.6, 8.8 Hz, 1H), 9.12 (s, 1H), 9.47 (d, J=2.6 Hz, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 52.4, 115.9, 119.9, 121.0, 127.3, 127.6, 129.2, 129.7, 130.7, 133.0, 134.2, 134.5, 135.5, 145.9, 146.7, 165.3, 171.2.

reactant | N-(2-bromo-5-nitrophenyl)benzamide | 0.9 mmol, 0.3 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O | C13H9BrN2O3
reactant | benzoylpiperazine | 3.00 mmol, 0.53 g | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-(2-(4-benzoylpiperazin-1-yl)-5-nitrophenyl)benzamide | 0.20 g, 50% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O | C24H22N4O4
